US07772271B2
2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile (40 mg, 0.12 mmol), prepared as in example 1CM, step B, is combined with 4-nitrophenyl chloroformate (60 mg, 0.30 mmol), CH2Cl2 (400 μL), and pyridine (25 μL, 0.31 mmol). This suspension is stirred at room temperature for 1 hour. Ethanolamine (42 μL, 0.70 mmol) is added. After stirring at room temperature for an additional 30 min, the reaction mixture is diluted in CH2Cl2 and is washed with dilute aqueous NaOH to remove the yellow nitrophenol by-product. The organic layer is dried and concentrated. Purification by silica gel chromatography (CH2Cl2/Acetone, 7/3) yields 1-[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-3-(2-hydroxy-ethyl)-urea (40 mg, 80%) as a white solid.

reactant | 2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile | 0.12 mmol, 40 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1 | C21H21N3O
reactant | 4-nitrophenyl chloroformate | 0.30 mmol, 60 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 0.31 mmol, 25 μL | N1=CC=CC=C1 | C5H5N
reactant | Ethanolamine | 0.70 mmol, 42 μL | C(O)CN | C2H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 400 μL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-3-(2-hydroxy-ethyl)-urea | 40 mg, 80% | C(#N)C1=C(N(C2=CC(=CC=C12)OCC)C1CCC1)C1=CC=C(C=C1)NC(=O)NCCO | C24H26N4O3
